data/oMe_Silver.jsonl
{"reaction_id": "NR-300_1-C(C)(C)C","level": "hard","name": "Seyfert-Gilbert Homologation","reactants_smiles": ["O=C([H])(C(C)(C)C)","COP(=O)(OC)C=[N+]=[N-]"],"products_smiles": ["C(C)(C)CC#C"],"conditions": "tert-Butoxide","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COP(=O)(OC)[C-]=[N+]=[N-]","step_weight": 0,"rationale": "tert-Butoxide deprotonates the acidic methylene between phosphonate and diazo groups, stabilized by resonance with the phosphonate and diazo moieties."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC([H])(C(P(=O)(OC)OC)=[N+]=[N-])[O-]","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic aldehyde carbon, driven by the strong polarization of the C=O bond and lack of steric hindrance at C(C)(C)C."},{"step": 3,"type": "addition","subtype": "intramolecular_nucleophilic_addition","intermediate_smiles": "C(C)(C)CC1([H])C(P(O1)([O-])(OC)(OC))=[N+]=[N-]","step_weight": 0,"rationale": "The alkoxide oxygen attacks the phosphorus intramolecularly, favored by proximity and the electrophilicity of phosphorus enhanced by electron-withdrawing substituents."},{"step": 4,"type": "elimination","subtype": "cycloreversion","intermediate_smiles": "C(C)(C)CC([H])=C=[N+]=[N-]","step_weight": 0,"rationale": "Cycloreversion occurs as the strained cyclic intermediate breaks, releasing the diazo functionality and forming a cumulene, driven by relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)CC([H])=[C]","step_weight": 0,"rationale": "Loss of nitrogen gas from the diazo group is highly favorable due to the stability of N2, generating a reactive carbene or vinylidene intermediate."},{"step": 6,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C)(C)CC#C","step_weight": 0,"rationale": "A 1,2-shift rearranges the vinylidene to the thermodynamically stable terminal alkyne, driven by formation of a strong C≡C bond."}],"description": "Under strong basic conditions, the Seyferth–Gilbert homologation converts aldehydes into terminal alkynes via deprotonation of the diazomethylphosphonate, nucleophilic addition to the carbonyl, cycloaddition, and stepwise elimination to form the alkyne through a rearrangement."}
{"reaction_id": "NR-044_1-CC(C)C_2-c1ccc(OC)cc1_3-Cc1ccccc1_4-C#CC_5-C1CCCCC1_6-CCCC","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](CC(C)C)(c1ccc(OC)cc1)C(Cc1ccccc1)(C#CC)[N+](C1CCCCC1)(CCCC)[O-]"],"products_smiles": ["C(CC(C)C)(c1ccc(OC)cc1)=C(Cc1ccccc1)(C#CC)","O[N](C1CCCCC1)(CCCC)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC(C)C)(c1ccc(OC)cc1)=C(Cc1ccccc1)(C#CC).O[N](C1CCCCC1)(CCCC)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
